US09193717B2
Step C: (R)-ethyl 3-(2-amino-4-(methylsulfonamido)phenylamino)-2-(4-fluorobenzyl)-2-hydroxy-3-oxopropanoate
A mixture of (R)-3-ethoxy-2-(4-fluorobenzyl)-2-hydroxy-3-oxopropanoic acid (1.28 g, 5 mmol), HATU (1.9 g 5 mmol), N-(3,4-diaminophenyl) methanesulfonamide (1 g, 5 mmol) in 4 mL of DMF was stirred at rt overnight. To this mixture was added water (20 ml) and ethyl acetate (50 ml). The organic layer was separated and washed with water (10 ml) and then concentrated in vacuo after being dried over anhydrous MgSO4. The residue was purified by PREP-HPLC to give the product as white solid.

reactant | (R)-3-ethoxy-2-(4-fluorobenzyl)-2-hydroxy-3-oxopropanoic acid | 5 mmol, 1.28 g | C(C)OC([C@@](C(=O)O)(O)CC1=CC=C(C=C1)F)=O | C12H13FO5
reactant | HATU | 5 mmol, 1.9 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-(3,4-diaminophenyl) methanesulfonamide | 5 mmol, 1 g | NC=1C=C(C=CC1N)NS(=O)(=O)C | C7H11N3O2S
reactant | water | 20 ml | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (R)-ethyl 3-(2-amino-4-(methylsulfonamido)phenylamino)-2-(4-fluorobenzyl)-2-hydroxy-3-oxopropanoate | NC1=C(C=CC(=C1)NS(=O)(=O)C)NC([C@](C(=O)OCC)(O)CC1=CC=C(C=C1)F)=O | C19H22FN3O6S
